US07427635B2
To a cold solution of 2-{(2S,3S)-2-[(R)-2-(4-amino-phenyl)-2-tert-butoxycarbonylamino-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester (100 mg, 0.177 mmol) in dichloromethane (10 mL) was added triethylamine (50 μL, 0.354 mmol) followed by acetic anhydride (22 μL 0.212 mmol). The reaction mixture was then stirred overnight at room temperature. The solvent was removed in vacuo and the residue was purified by chromatography over silica gel gradient eluted from 10% to 75% ethyl acetate in hexanes to afforded 2-{(2S,3S)-2-[(R)-2-(4-acetylamino-phenyl)-2-tert-butoxycarbonylamino-acetylamino]-3-phenyl-butyryl-amino}-thiazole-4-carboxylic acid methyl ester which was used immediately in the following step of the synthesis (107 mg, 98%).

reactant | 2-{(2S,3S)-2-[(R)-2-(4-amino-phenyl)-2-tert-butoxycarbonylamino-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester | 0.177 mmol, 100 mg | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)NC([C@H](NC(=O)OC(C)(C)C)C1=CC=C(C=C1)N)=O)=O | C28H33N5O6S
reactant | triethylamine | 0.354 mmol, 50 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.212 mmol, 22 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-{(2S,3S)-2-[(R)-2-(4-acetylamino-phenyl)-2-tert-butoxycarbonylamino-acetylamino]-3-phenyl-butyryl-amino}-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)NC([C@H](NC(=O)OC(C)(C)C)C1=CC=C(C=C1)NC(C)=O)=O)=O | C30H35N5O7S
